US05059609
6-Benzyloxy-3-(4-methoxy-3-(methoxycarbonyl)benzylidene)-4-chromanone
By the method of Example 44, 6-benzyloxy-4-chromanone (20.95 g) and 4-methoxy-3-methoxycarbonylbenzaldehyde were converted to present title product, 25.75 g (73%); tlc (19:1 CH2Cl2 :ether) Rf 0.70.

reactant | 6-benzyloxy-4-chromanone | 20.95 g | C(C1=CC=CC=C1)OC=1C=C2C(CCOC2=CC1)=O | C16H14O3
reactant | 4-methoxy-3-methoxycarbonylbenzaldehyde | COC1=C(C=C(C=O)C=C1)C(=O)OC | C10H10O4
product | 6-Benzyloxy-3-(4-methoxy-3-(methoxycarbonyl)benzylidene)-4-chromanone | C(C1=CC=CC=C1)OC=1C=C2C(C(COC2=CC1)=CC1=CC(=C(C=C1)OC)C(=O)OC)=O | C26H22O6
